US06268312B1
N,N-Dimethylformamide (2.2 ml), potassium carbonate (210 mg, 1.5 mmol) and 2-chloro-5-trifluoromethylpyridine (220 mg, 1.2 mmol) were added to 2-hydroxyphenyl 2-oxazolin-2-yl ketone O-methyloxime (220 mg, 1.0 mmol), and the mixture was stirred at 100° C. for 2.5 hours. After completion of the reaction, aqueous in sodiumhydroxide solution (100 ml) was added, and the mixture was extracted with ether. The ether layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(5-trifluoromethyl-2-pyridyloxy)phenyl 2-oxazolin-2-yl ketone O-methyloxime (190 mg, 52.1%) as an oil.

reactant | N,N-Dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 1.5 mmol, 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-trifluoromethylpyridine | 1.2 mmol, 220 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 2-hydroxyphenyl 2-oxazolin-2-yl ketone O-methyloxime | 1.0 mmol, 220 mg | CON=C(C1=C(C=CC=C1)O)C=1OCCN1 | C11H12N2O3
solvent | sodiumhydroxide | 100 ml | [OH-].[Na+]
product | 2-(5-trifluoromethyl-2-pyridyloxy)phenyl 2-oxazolin-2-yl ketone O-methyloxime | 190 mg, 52.1% | CON=C(C1=C(C=CC=C1)OC1=NC=C(C=C1)C(F)(F)F)C=1OCCN1 | C17H14F3N3O3
